US04713233
A preferred method for the production of the admixture needed to produce an 8 wt% Y2O3 /ZrO2 spray dried material is described herein. A clear solution of yttrium acetate was prepared by dissolving 247 g of the Y(acetate)3. 3.5 H2O (0.76 mole) in 500 cc (28 mole) of 90° C. distilled water. This solution was added to an equal volume of hot (80° C.) n-propanol. This solution must be kept hot during the synthesis. Using a heated dropping funnel, the yttrium solution was slowly added to 2.66 kg (6.3 mole) of zirconium n-propoxide. An air driven propellor stirrer was used throughout the addition, and the stirring continued for an extra 30 min. The suspension was quite thick and was improved by the addition of one gram of p-hydroxybenzoic acid (0.2 wt% of the ZrO2) in 1.3 l of n-propanol to the zirconium alkoxide prior to the addition of the yttrium solution.

reactant | H2O | 0.76 mole | O | H2O
reactant | yttrium | [Y] | Y
reactant | p-hydroxybenzoic acid | one gram | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
solvent | n-propanol | 1.3 l | C(CC)O | C3H8O
catalyst | zirconium n-propoxide | 6.3 mole, 2.66 kg | CCCO.CCCO.CCCO.CCCO.[Zr]
product | yttrium acetate | C(C)(=O)[O-].[Y+3].C(C)(=O)[O-].C(C)(=O)[O-] | InChI=1S/3C2H4O2.Y/c3*1-2(3)4;/h3*1H3,(H,3,4);/q;;;+3/p-3
